US07482345B2
2-(2,4-difluorophenoxy)-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one
To a solution of 2-chloro-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one (250 mg, 0.85 mmol) and Cs2CO3 (834 mg, 2.56 mmol) in NMP was added 2,4 difluoro phenol (211 mg, 1.7 mmol). The mixture was heated to 90° C. for 2 hrs until the reaction was complete via LCMS analysis. The reaction was cooled to ambient temperature and diluted with EtOAc and H2O. The aqueous layer was washed with EtOAc and the combined organic layers were washed with 1N NaOH, H2O, brine, dried over MgSO4, and concentrated in vacuo. The crude residue was purified via silica gel chromatography (EtOAc/CH2Cl2, MeOH) to yield the title compound.

reactant | 2-chloro-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one | 0.85 mmol, 250 mg | ClC=1C=CC=2N(N1)C=CC(C2C2=C(C=CC=C2F)F)=O | C14H7ClF2N2O
reactant | Cs2CO3 | 2.56 mmol, 834 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,4 difluoro phenol | 1.7 mmol, 211 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 2-(2,4-difluorophenoxy)-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one | FC1=C(OC=2C=CC=3N(N2)C=CC(C3C3=C(C=CC=C3F)F)=O)C=CC(=C1)F | C20H10F4N2O2
